US06642226B2
Rac-cis-1-[1-Benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazine (2.00 g, 5.41 mmol) was dissolved in dichloromethane (130 mL) and 9-fluorenylmethyl-chloroformate (1.71 g, 6.49 mmol) in dichloromethane (50 mL) was added at 0° C. The reaction mixture was stirred at room temperature overnight and diluted with sat sodium bicarbonate solution (100 mL). The organic phase was separated and the aqueous layer was extracted twice with 150 mL dichloromethane. Organic phases were pooled, dried with magnesium sulfate and evaporated. Flash chromatography on silica gel with cyclohexane/ethyl acetate 6:1 gave rac-cis-4-[1-benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (1.75 g, 55%) as a light yellow solid, MS: m/e=592.3 (M+).

reactant | Rac-cis-1-[1-Benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazine | 5.41 mmol, 2.00 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=C(C=C1)Cl | C22H28ClN3
reactant | 9-fluorenylmethyl-chloroformate | 6.49 mmol, 1.71 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
product | rac-cis-4-[1-benzyl-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 1.75 g, 55% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCN(CC1)[C@@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C37H38ClN3O2
